US07141561B2
2-(2,5-Dioxo-imidazolidin-1-yl)-N-{4-[2-oxo-3-(4-phenoxy-phenyl)-2,3-dihydroimidazol-1-yl]-phenyl}-acetamide
1-(4-Aminophenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one was reacted with 2-(2,5-dioxo-imidazolidin-1-yl acetic acid as described in example 217. The product with the molecular weight of 483.49 (C26H21N5O5); MS (ESI): 484 ([M+H]+) was obtained as hydrotrifluoroacetate in this way.

reactant | 1-(4-Aminophenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | NC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C21H17N3O2
reactant | 2,5-dioxo-imidazolidin-1-yl acetic acid | O=C1N(C(CN1)=O)CC(=O)O | C5H6N2O4
product | 2-(2,5-Dioxo-imidazolidin-1-yl)-N-{4-[2-oxo-3-(4-phenoxy-phenyl)-2,3-dihydroimidazol-1-yl]-phenyl}-acetamide | O=C1N(C(CN1)=O)CC(=O)NC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C26H21N5O5
